US05389641
25a) 3-Cyano-4-(4-methylphenyl)quinoline
A mixture of 2-amino-4'-methylbenzophenone (10 g), 3,3-dimethoxypropionitrile (10.9 g), p-toluenesulfonic acid. monohydrate (1.0 g) in toluene (120 ml) was heated under reflux for 4 hours. After addition of water, the reaction mixture was extracted with ethyl acetate and the extract was concentrated to dryness. The residue was purified by column chromatography on silica gel. Recrystallization from isopropyl ether afforded pale yellow prisms (5.67 g, 49%), m.p. 96°-97° C.

reactant | 2-amino-4'-methylbenzophenone | 10 g | NC1=C(C(=O)C2=CC=C(C=C2)C)C=CC=C1 | C14H13NO
reactant | 3,3-dimethoxypropionitrile | 10.9 g | COC(CC#N)OC | C5H9NO2
reactant | p-toluenesulfonic acid. monohydrate | 1.0 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | water | O | H2O
solvent | toluene | 120 ml | C1(=CC=CC=C1)C | C7H8
product | 3-Cyano-4-(4-methylphenyl)quinoline | C(#N)C=1C=NC2=CC=CC=C2C1C1=CC=C(C=C1)C | C17H12N2
